US04481202
C. n-Octyl [2-Amino-5-chloro-6-(n-octylthio)pyrazinyl]formate
In 1 ml of dimethylformamide there was mixed n-octyl (2-amino-5,6-dichloropyrazinyl)formate (100 mg; 0.312 mol), prepared in Step B above, and n-octyl thiol (150 mg; 0.936 mol), after which there was added triethylamine (70 mg; 0.624 mol), and the reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was taken up in dichloromethane and passed through a silica gel column to give the title compound. Elemental Analysis:

reactant | n-octyl (2-amino-5,6-dichloropyrazinyl)formate | 0.312 mol, 100 mg | NC1=NC(=C(N=C1C(=O)OCCCCCCCC)Cl)Cl | C13H19Cl2N3O2
reactant | n-octyl thiol | 0.936 mol, 150 mg | C(CCCCCCC)S | C8H18S
reactant | triethylamine | 0.624 mol, 70 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | n-Octyl [2-Amino-5-chloro-6-(n-octylthio)pyrazinyl]formate | NC1=NC(=C(N=C1C(=O)OCCCCCCCC)Cl)SCCCCCCCC | C21H36ClN3O2S
